US09108939B2
B: 2-(4-((4-(4-Amino-3-chlorobenzyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol
2-Chloro-4-(piperidin-4-ylmethyl)aniline (0.445 mmol, 100 mg), 2-(4-(bromomethyl)-phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol (0.445 mmol, 150 mg) and potassium carbonate (0.890 mmol, 123 mg) were combined and stirred at room temperature in acetonitrile (5 mL) for 1.5 hours. The reaction mixture was filtered and filtrate was concentrated under vacuum. The residue was purified by SCX chromatography to give the title compound (200 mg). MS (ESI) m/z 480.9 [M+H]+

reactant | 2-Chloro-4-(piperidin-4-ylmethyl)aniline | 0.445 mmol, 100 mg | ClC1=C(N)C=CC(=C1)CC1CCNCC1 | C12H17ClN2
reactant | 2-(4-(bromomethyl)-phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 0.445 mmol, 150 mg | BrCC1=CC=C(C=C1)C(C(F)(F)F)(C(F)(F)F)O | C10H7BrF6O
reactant | potassium carbonate | 0.890 mmol, 123 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 2-(4-((4-(4-Amino-3-chlorobenzyl)piperidin-1-yl)methyl)phenyl)-1,1,1,3,3,3-hexafluoropropan-2-ol | 200 mg | NC1=C(C=C(CC2CCN(CC2)CC2=CC=C(C=C2)C(C(F)(F)F)(C(F)(F)F)O)C=C1)Cl | C22H23ClF6N2O
